US06090836
Step D: Preparation of methyl 4-(3-(3-(ethyl)-7-propyl-6-benz-[4,5]-isoxazoloxy)butyl)phenylacetate
A suspension of sodium hydride (15 mg, 0.36 mmole) in DMF (1.5 mL) was treated with 3-ethyl-6-hydroxy-7-propylbenz-[4,5]-isoxazole (68 mg, 0.33 mmole) and the mixture stirred at room temperature for 10 minutes under a nitrogen atmosphere. A solution of methyl 4-(4-methansulfonyloxybutyl)phenylacetate (100 mg, 0.33 mmole) in DMF (0.5 mL) was added and the mixture stirred at 80° C. for 5 hours. The cooled reaction mix was dissolved in ethyl acetate and washed with water (twice), brine, dried over magnesium sulfate and concentrated in vacuo to an oil. The crude product was purified by thin layer chromatography on silica gel eluting with hexane:ethyl acetate (4:1) to give the title compound (80 mg) as an oil. NMR (CDCl3): δ 0.97 (t, 3H); 1.44 (t, 3H); 1.71 (m, 2H); 1.87 (m, 4H); 2.71 (t, 2H); 2.88 (t, 2H); 2.97 (q, 2H); 3.62 (s, 2H); 3.71 (s, 3H); 6.89 (d, 1H); 7.18 (d, 2H); 7.22 (d, 2H); 7.39 (d, 1H).

reactant | sodium hydride | 0.36 mmole, 15 mg | [H-].[Na+]
reactant | 3-ethyl-6-hydroxy-7-propylbenz-[4,5]-isoxazole | 0.33 mmole, 68 mg | C(C)C1=NOC2=C1C=CC(=C2CCC)O | C12H15NO2
reactant | methyl 4-(4-methansulfonyloxybutyl)phenylacetate | 0.33 mmole, 100 mg | CS(=O)(=O)OCCCCC1=CC=C(C=C1)CC(=O)OC | C14H20O5S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(3-(3-(ethyl)-7-propyl-6-benz-[4,5]-isoxazoloxy)butyl)phenylacetate | 80 mg | C(C)C1=NOC2=C1C=CC(=C2CCC)OC(CCC2=CC=C(C=C2)CC(=O)OC)C | C25H31NO4
